US04788185
2-(2-Amino-5-chlorothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid
Six grams of 2-(2-aminothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid and 3.2 g of N-chlorosuccinimide are reacted in the manner of Reference Example 35 and the product obtained is solidified by treating hexane to give 6.5 g of the above-identified compound as a powder.

reactant | 2-(2-aminothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid | Six grams | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C)(C)C | C11H15N3O5S
reactant | N-chlorosuccinimide | 3.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | hexane | CCCCCC | C6H14
product | 2-(2-Amino-5-chlorothiazol-4-yl)-2(Z)-(tert-butoxycarbonylmethoxyimino)acetic acid | 6.5 g | NC=1SC(=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C)(C)C)Cl | C11H14ClN3O5S
